US04200641
A mixture of 63 parts of 1,3-dihydro-1-{3-[4-(phenylmethyl)-1-piperazinyl]propyl}-2H-benzimidazol-2-one in 400 parts of methanol is hydrogenated at normal pressure and at room temperature with 10 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off over hyflo and the filtrate is evaporated. The residue is crystallized from a mixture of 4-methyl-2-pentanone and 2-propanol. The product is filtered off and dried, yielding 1,3-dihydro-1-[3-(1-piperazinyl)propyl]-2H-benzimidazol-2-one; mp. 157.5° C.

reactant | 1,3-dihydro-1-{3-[4-(phenylmethyl)-1-piperazinyl]propyl}-2H-benzimidazol-2-one | C1(=CC=CC=C1)CN1CCN(CC1)CCCN1C(NC2=C1C=CC=C2)=O | C21H26N4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 1,3-dihydro-1-[3-(1-piperazinyl)propyl]-2H-benzimidazol-2-one | N1(CCNCC1)CCCN1C(NC2=C1C=CC=C2)=O | C14H20N4O
